US08314098B2
Synthesis of N-(3-methyl-benzylidene)-N′-(7-morpholin-4-yl-3-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine (Compound 6)
There was suspended, in ethanol (2 mL), 5-chloro-7-morpholin-4-yl-3-phenyl-pyrazolo[1,5-a]pyrimidine (42.1 mg, 0.134 mM) and then hydrazine monohydrate (65.0 μL, 1.34 mM) was added to the suspension. This suspension was stirred at 150° C. for 20 minutes under the irradiation with microwaves, the solvent was then distilled off, the resulting residue was diluted with a saturated aqueous common salt solution and extracted with ethyl acetate. The extracts thus obtained were combined, dried over anhydrous sodium sulfate, and the solvent was then distilled off. The resulting residue was suspended in ethanol (2 mL), then acetic acid (2.0 μL, 0.035 mM) and 3-methyl-benzaldehyde (15.8 μL, 0.134 mM) were added to the suspension and the mixture was stirred at room temperature for 2 hours and a half.

reactant | 5-chloro-7-morpholin-4-yl-3-phenyl-pyrazolo[1,5-a]pyrimidine | 0.134 mM, 42.1 mg | ClC1=NC=2N(C(=C1)N1CCOCC1)N=CC2C2=CC=CC=C2 | C16H15ClN4O
reactant | hydrazine monohydrate | 1.34 mM, 65.0 μL | O.NN
reactant | ethanol | 2 mL | C(C)O | C2H6O
product | N-(3-methyl-benzylidene)-N′-(7-morpholin-4-yl-3-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-hydrazine | CC=1C=C(C=NNC2=NC=3N(C(=C2)N2CCOCC2)N=CC3C3=CC=CC=C3)C=CC1 | C24H24N6O
